US05561101
7-chloro-3-methoxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide (Table A, cpd. no. 30)
1.0 g of 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide is slurried in 20 ml of methanol and the solution cooled with ice and 0.6 ml of sodium methoxide added dropwise. After stirring for 10 min a further 1 ml of sodium methoxide is added and stirring continued for 10 min and the mixture is then quenched with 2N H2SO4. Methanol is removed on a rotovaporator and the residue partitioned between water and ethyl acetate. The organic phase is dried over Na2SO4 and concentrated. Flash chromatography of the residue over silica gel using 25% ethyl acetate/hexane yields a white solid m.p. 180°-183° C.

reactant | 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 1.0 g | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)C#N | C15H10ClN3O4
reactant | sodium methoxide | 0.6 ml | C[O-].[Na+]
reactant | sodium methoxide | 1 ml | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 7-chloro-3-methoxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)OC | C15H13ClN2O5
